US04241079
To a suspension of 2-(3-carbomethoxy thioureido)-4-propylthioaniline (9.0 g; 0.03 mole) in methanol (100 ml) cooled to 10° C., there is added p=anisaldehyde (4.08 g; 0.03 mole). The mixture is stirred at 10° C. for 1 hr. and at room temperature for 18 hrs. The suspension that forms is vacuum filtered and the filter cake air dried to afford 1-imino-(4-methoxy)phenylmethyl-2-(3-carbomethoxythioureido)-4-propylthiobenzene (9.9 g,; 79%), m.p. 141°-144° C.

reactant | 2-(3-carbomethoxy thioureido)-4-propylthioaniline | 0.03 mole, 9.0 g | C(=O)(OC)NC(NC1=C(N)C=CC(=C1)SCCC)=S | C12H17N3O2S2
reactant | anisaldehyde | 0.03 mole, 4.08 g | COC=1C=CC(=CC1)C=O | C8H8O2
reactant | methanol | 100 ml | CO | CH4O
product | 1-imino-(4-methoxy)phenylmethyl-2-(3-carbomethoxythioureido)-4-propylthiobenzene | 9.9 g, 79% | N=C1C(=C(C(C=C1)(SCCC)OC)CC1=CC=CC=C1)NC(=S)NC(=O)OC | C20H25N3O3S2
